US04066456
b. Preparation of 2-methyltetradecylamino-4-methyl-5-nitrobenzamide
A mixture of 19.2 grams 2-chloro-4-methyl-5-nitrobenzamide, 21.4 grams methyltetradecylamine and 46.0 ml triethylamine was heated on a steam bath for 20 hours. The mixture was poured into about 200 ml ice water and made acid with concentrated HCl to a pH of 2-3. The mixture was filtered, washed with water and vacuum dried. The crude material was recrystallized from ethanol to give 30 grams product. m.p. = 117°-119°.

reactant | 2-chloro-4-methyl-5-nitrobenzamide | 19.2 grams | ClC1=C(C(=O)N)C=C(C(=C1)C)[N+](=O)[O-] | C8H7ClN2O3
reactant | methyltetradecylamine | 21.4 grams | CNCCCCCCCCCCCCCC | C15H33N
reactant | HCl | Cl | ClH
reactant | triethylamine | 46.0 ml | C(C)N(CC)CC | C6H15N
product | 2-methyltetradecylamino-4-methyl-5-nitrobenzamide | 30 grams | CC(CNC1=C(C(=O)N)C=C(C(=C1)C)[N+](=O)[O-])CCCCCCCCCCCC | C23H39N3O3
